### PR TITLE
[Merged by Bors] - chore: partially forward-port #18760

### PR DESCRIPTION
**Pull request by urkud**
---
`simp` and `simpNF` behaves different from Lean 3, so forward-porting caused some compile and lint errors. I tried to fix them (awaiting CI).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite.lean [hunk 1]
```diff
@@ -223,11 +236,14 @@ alias Finite.toFinset_ssubset_toFinset ↔ _ toFinset_strictMono
...
-@[simp]
+-- porting note: `simp` can simplify LHS but then it simplifies something
+-- in the generated `Fintype {x | p x}` instance and fails to apply `Set.toFinset_setOf`
+@[simp high]
 protected theorem toFinset_setOf [Fintype α] (p : α → Prop) [DecidablePred p]
     (h : { x | p x }.Finite) : h.toFinset = Finset.univ.filter p := by
   ext
-  simp
+  -- porting note: `simp` doesn't use the `simp` lemma `Set.toFinset_setOf` without the `_`
+  simp [Set.toFinset_setOf _]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite.lean:246]: I pushed an uglier proof here in order to demonstrate what the comment above is talking about. It's not that `Set.toFinset_setOf` can't apply, it's just that `simp` is lousy at inferring arguments.

**Review by eric-wieser — APPROVED** [review]
bors d+

Please check you're happy with my tweaks

**Comment by urkud** [comment]
bors merge
